Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
trimethoprim / Bactrim / ferumoxytol / iron
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a PMH of hemoglobin SC 
disease, HTN, HL, and CKD stage 5 secondary to hypertension, who 
was admitted from pre-op for severe anemia. 

She presented to ___ on ___ for an elective cholecystectomy 
as well as a peritoneal dialysis catheter placement. On 
presentation, she felt well with no complaints. She was found to 
have a hemoglobin of 5.8. She was not able to be transfused in 
the pre-op area because of her hemoglobin SC disease, so she was 
admitted for transfusion and PD catheter placement. 

She has a history of anemia with a baseline Hb of around 7. She 
reports that she "feels fine." Denies fatigue, chest pain, 
shortness of breath, nausea, vomiting, diarrhea. She reports 
that her stools are dark from her iron pill, but she does not 
have tarry or bloody stools. She does have a history of a 
reaction to an IV iron transfusion, but she does not have any 
history of a blood transfusion reaction. She is followed by Dr. 
___. She is on iron pills for her anemia. 

Regarding her CKD, she sees Dr. ___ at ___. The CKD is 
stage 5 and thought secondary to hypertension. She is in the 
process of being worked up for a kidney transplant by Dr. 
___ at ___. She was also found to have latent TB. She 
sees ID at ___. The plan was to start her on INH treatment 
after PD catheter placement. 

Further, she reports that she recently saw an ophthalmologist 
and was diagnosed with uveitis. She has been taking several 
different types of eye drops for one week. She reports that she 
was told to take these eye drops until she followed up with 
ophthalmology in about a month. 

 
Past Medical History:
CKD Stage 5 secondary to hypertensive nephrosclerosis
HTN
Dyslipidemia
Hemoglobin SC disease
Possible uveitis
Positive PPD, Latent TB
 
Social History:
___
Family History:
Father has sickle cell trait.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================  
VS:  97.5 PO 139 / 73 68 97 
GENERAL: NAD, resting comfortably in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pale conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
=======================
VS:  99.0 PO 140 / 79 64 18 97 Ra 
GENERAL: NAD, resting comfortably in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, resolution of pale 
conjunctiva, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 01:13PM BLOOD WBC-7.7 RBC-2.17*# Hgb-5.5*# Hct-16.7*# 
MCV-77* MCH-25.3* MCHC-32.9 RDW-20.8* RDWSD-57.5* Plt ___
___ 01:13PM BLOOD ___ PTT-27.9 ___
___ 01:13PM BLOOD Ret Aut-8.4* Abs Ret-0.18*
___ 01:13PM BLOOD Glucose-162* UreaN-88* Creat-6.5*# Na-140 
K-4.0 Cl-105 HCO3-19* AnGap-20
___ 01:13PM BLOOD ALT-9 AST-11 LD(LDH)-198 AlkPhos-59 
TotBili-0.8
___ 01:13PM BLOOD Calcium-8.8 Phos-5.1* Mg-2.0

DISCHARGE LAB RESULTS
=====================
___ 05:48AM BLOOD WBC-8.6 RBC-2.90*# Hgb-7.8*# Hct-22.8*# 
MCV-79* MCH-26.9 MCHC-34.2 RDW-19.2* RDWSD-54.1* Plt ___
___ 05:48AM BLOOD Glucose-94 UreaN-90* Creat-6.4* Na-142 
K-4.1 Cl-106 HCO3-18* AnGap-22*
___ 05:48AM BLOOD Albumin-3.9 Calcium-9.0 Phos-4.8* Mg-2.0

IMAGING/STUDIES
===============
None

MICROBIOLOGY
============
None
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a PMH of hemoglobin SC 
disease, HTN, HL, and CKD stage 5 secondary to hypertension, who 
was admitted from pre-op for severe anemia. She presented for 
elective cholecystectomy and PD catheter placement. She was 
found to have a Hemoglobin of 5.5. Her surgeries were cancelled. 
There were no active signs of bleeding, this was deemed 
secondary to CKD, iron deficiency anemia, and sickle cell 
disease. She was transfused two units of pRBCs, and her 
hemoglobin increased to 7.8. She was discharged with a plan to 
reschedule the elective cholecystectomy and peritoneal dialysis 
catheter placement. 

#Microcytic Anemia. Patient was found to incidentally have a 
hemoglobin of 5.5. She was completely asymptomatic, which 
suggests that it was a slow downtrend. She has known iron 
deficiency anemia, sickle cell disease, and CKD, all of which 
can be contributing to the patient's anemia. There were no signs 
of bleeding. She was transfused 2U pRBCs, and her hemoglobin 
increased to 7.8. She was discharged with instructions to 
follow-up with her primary care doctor. 

#CKD, Stage 5. Patient has known CKD, likely secondary to 
uncontrolled hypertension. She is currently being worked up for 
renal transplant. Was supposed to get PD catheter placed during 
an elective procedure on ___, but this will be rescheduled by 
the transplant surgery team for a later date. 

#Porcelain gallbladder. The patient presented on ___ for 
elective cholecystectomy. When she was found to be anemic, the 
elective surgery was cancelled. Transplant surgery will contact 
her to reschedule the two elective surgeries. 

#Latent TB. The patient has known latent TB diagnosed with a 
positive Quantiferon Gold. She is followed by ___ ID. The plan 
is for her to start INH treatment as an outpatient once PD 
catheter is placed and cholecystectomy is completed. 

#Uveitis. Patient was recently seen by ___ ophthalmology and 
diagnosed with uveitis. She was continued on PrednisoLONE 
Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID, Flurbiprofen 0.03% 
1 DROP LEFT EYE QID. She should follow-up with outpatient 
ophthalmology as scheduled. 

#Hyperlipidemia. Continued Atorvastatin 20 mg PO QPM.

TRANSITIONAL ISSUES
===================
#Anemia
- Check CBC at next PCP appointment to ensure that blood count 
is stable. 
- Please make sure patient is up-to-date on encapsulated 
organism vaccinations given her history of sickle cell disease. 
A quick review of ___ Records showed 
pneumonia vaccinations, but no meningococcal vaccination. 

# Cholecystectomy/PD Catheter placement
- Transplant surgery follow-up to reschedule cholecystectomy and 
PD catheter placement

#Latent TB
- Patient should follow up with ___ ID after cholecystectomy 
to begin treatment

#Uveitis
- Patient should continue eye drops until she follows up with 
outpatient ophthalmology

#CONTACT: ___ (husband) ___
#CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Sodium Bicarbonate 650 mg PO BID 
3. Atenolol 25 mg PO DAILY 
4. amLODIPine 10 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Ferrous Sulfate 325 mg PO BID 
7. Torsemide 20 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Calcitriol 0.25 mcg PO 5X/WEEK (___) 
10. Vitamin D ___ UNIT PO DAILY 
11. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
uveitis 
12. Flurbiprofen 0.03% 1 DROP LEFT EYE QID 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Atenolol 25 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Calcitriol 0.25 mcg PO 5X/WEEK (___)  
5.  Ferrous Sulfate 325 mg PO BID  
6.  Flurbiprofen 0.03% 1 DROP LEFT EYE QID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
uveitis  
10.  Sodium Bicarbonate 650 mg PO BID  
11.  Torsemide 20 mg PO DAILY  
12.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Severe anemia

Secondary Diagnosis:
- Hemoglobin SC disease
- CKD stage 5
- Latent TB

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=================================
- You came to the hospital to get your gallbladder taken out and 
to get a peritoneal dialysis catheter placed. 
- Your blood count (hemoglobin) was checked, and it was very low 
at 5.5, so your surgery was cancelled. 

What did we do for you
======================
- We gave you two units of blood through a blood transfusion. 

What do you need to do?
=======================
- It is important that you follow up with your primary care 
doctor ___ information below)
- The ___ Transplant Surgery department will contact you to 
reschedule your gallbladder and dialysis catheter placement 
surgery. If you do not hear from them within two days of leaving 
the hospital, please call: ___ 
- Follow up with ___ Infectious Disease after your surgery to 
start treatment for a tuberculosis infection. 
 
Followup Instructions:
___